US08580957B2
A suspension of (1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide (for a preparation see intermediate 4) (0.5 g, 1.538 mmol) in ethanol (4 mL) was treated with HCl (5N in water, 1 mL, 5.00 mmol) and the resulting mixture was stirred at 75° C. for 40 min under microwave irradiation then cooled to room temperature and basified with a saturated NaHCO3 aqueous solution (50 mL). The aqueous phase was extracted with AcOEt (3×50 mL). The combined organic phases were dried over MgSO4 then concentrated in vacuo to give (cis)-1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinamine (377 mg, 1.27 mmol, 83%).

reactant | (1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide | C(C)(=O)N1C(CC(C2=CC(=CC=C12)Br)NC=O)CC | C14H17BrN2O2
reactant | HCl | 5.00 mmol, 5N, 1 mL | Cl | ClH
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (cis)-1-acetyl-6-bromo-2-ethyl-1,2,3,4-tetrahydro-4-quinolinamine | 1.27 mmol, 377 mg, 83% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)CC | C13H17BrN2O
